US08912186B2
To a solution of benzaldehyde (2 g) in EtOH (40 ml) 3 M NaOH solution (3 eq) and 4-chloroacetophenone (2.91 g) were added. The resulting mixture was stirred at rt for 2 h forming a yellow precipitate. The solid was separated by suction filtration and washed with water. The crude was purified by recrystallisation from methanol to give 1-(4-chlorophenyl)-3-phenylprop-2-en-1-one (4.2 g) as pale yellow crystals.

reactant | benzaldehyde | 2 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | EtOH | 3 M, 40 ml, 3 eq | CCO | C2H6O
reactant | 4-chloroacetophenone | 2.91 g | CC(=O)C1=CC=C(C=C1)Cl | C8H7ClO
product | 1-(4-chlorophenyl)-3-phenylprop-2-en-1-one | 4.2 g | ClC1=CC=C(C=C1)C(C=CC1=CC=CC=C1)=O | C15H11ClO
